* Half wave Rectifier
V1 1 0 AC 10 1e6
* D1 1 2 10e-12 25e-3
* diodeLineToTaylorSeries( 'D1', 1, 2, 10e-12, 25e-3, 8 )
PD1_1 1 2 1.000000e-11 2.500000e-02 1
PD1_2 1 2 5.000000e-12 2.500000e-02 2
PD1_3 1 2 1.666667e-12 2.500000e-02 3
PD1_4 1 2 4.166667e-13 2.500000e-02 4
*PD1_5 1 2 8.333333e-14 2.500000e-02 5
*PD1_6 1 2 1.388889e-14 2.500000e-02 6
*PD1_7 1 2 1.984127e-15 2.500000e-02 7
*PD1_8 1 2 2.480159e-16 2.500000e-02 8
*
R1 2 0 100
.end
